US06326397B1
A solution of 13 g of 2-bromo-4,6-di-tert.butyl-phenol in 100 ml of dimethylformamide (DMF) was added dropwise to a suspension of 2.2 g of sodium hydride (50% in mineral oil) in 100 ml of DMF at 0° C. The reaction mixture was stirred at room temperature until hydrogen was no longer evolved (ca. 1 h), cooled again to 0° C. and treated with a solution of 22 g of ethyl iodide in 50 ml of DMF. After stirring for about 1 hour at room temperature, the reaction mixture was poured on icewater, extracted with ethyl acetate, washed (H2O), dried (Na2SO4) and evaporated to give 13.5 g of 1-bromo-2-ethoxy-3,5-di-tert.butyl-benzene as white crystals, m.p. 55-56° C.

reactant | 2-bromo-4,6-di-tert.butyl-phenol | 13 g | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C14H21BrO
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl iodide | 22 g | C(C)I | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
product | 1-bromo-2-ethoxy-3,5-di-tert.butyl-benzene | 13.5 g | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCC | C16H25BrO
